### PR TITLE
[Merged by Bors] - refactor: reorganize Topology/EMetricSpace/Defs to generalise basic results

### PR DESCRIPTION
**Pull request by felixpernegger**
This PR reorganizes the Topology/EMetricSpace/Defs so that various results that previously only held for `PseudoEMetricSpace` now also hold for `WeakPseudoEMetricSpace` (in particular, `ENNReal`). This is a necessary stepping stone to generalise many definitions and theorems to `WeakPseudoEMetricSpace`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/MulOpposite.lean
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/MulOpposite.lean:1]: We only need this to take MulOpposite of WeakPseudoEMetricSpace; doing this in the original file increases imports quite a bit though.

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 1]
```diff
@@ -128,12 +133,121 @@ protected theorem PseudoEMetricSpace.ext {α : Type*} {m m' : PseudoEMetricSpace
...
+instance PseudoEMetricSpace.toWeakPseudoEMetricSpace (α : Type u) [inst : PseudoEMetricSpace α] :
+    WeakPseudoEMetricSpace α where
+  edist_self := edist_self
+  edist_comm := edist_comm
+  edist_triangle := edist_triangle
+  topology_le := by rw [uniformSpace_edist]
+  topology_eq_on_restrict x r := by
+    -- This is an easy consequence of later lemmas for `PseudoEMetricSpace`
+    -- However we don't use them here, since they can be generalised to `WeakPseudoEMetricSpace`,
+    -- which however first requires this instance.
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/Defs.lean]: Is there a better way to do this?

File: Mathlib/Topology/EMetricSpace/MulOpposite.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+
+namespace MulOpposite
+
+variable {α : Type*} [TopologicalSpace α] [WeakPseudoEMetricSpace α]
+
+/-- weak pseudoemetric space instance on the multiplicative opposite of a
+weak pseudoemetric space. -/
+@[to_additive
+/-- Weak pseudoemetric space instance on the additive opposite of a weak pseudoemetric space. -/]
+instance {α : Type*} [n : TopologicalSpace α] [WeakPseudoEMetricSpace α] :
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/MulOpposite.lean]:
```suggestion
instance {α : Type*} [TopologicalSpace α] [WeakPseudoEMetricSpace α] :
```

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 3]
```diff
@@ -55,17 +56,21 @@ class EDist (α : Type*) where
 
 export EDist (edist)
 
-section
+namespace Metric
 
-variable {x y z : α} {ε : ℝ≥0∞} [EDist α]
+variable {x y z : α} {ε ε₁ ε₂ : ℝ≥0∞} [EDist α]
 
 /-- `EMetric.ball x ε` is the set of all points `y` with `edist y x < ε` -/
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/Defs.lean]: Preexisting: could you update this docstring?

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: So do I understand this correctly? You would theoretically need to use a lemma about `PseudoEMetricSpace` here which you prove using a lemma about `WeakPseudoEMetricSpace` which is why you need this instance to prove it. And therefore you cannot use the lemma to prove this instance. 

The proof really isn't nice but I also don't know any way to make this nicer. I think this might be fine like this.

**Review by scholzhannah — COMMENTED** [review]
Thank you for doing this! Two small comments for now, I will get back to this later.

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: Yes this is correct. This is easy with lemmas which hold for `WeakPseudoEMetricSpace` and thus also `PseudoEMetricSpace`, but proving them for `WeakPseudoEMetricSpace` first requires this lemma and I think extra making private lemmas for that is a bit overkill.

You can make it a *little* bit nicer by moving some more lemmas that only hold for `PseudoEMetricSpace` probably, but not by much.

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 3 above)
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/Defs.lean]:
```suggestion
/-- `Metric.eball x ε` is the set of all points `y` with `edist y x < ε` -/
```

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 4]
```diff
@@ -353,25 +492,14 @@ distance, with a topology defeq to the initial one. -/
...
-
-@[to_additive]
-theorem edist_unop (x y : αᵐᵒᵖ) : edist (unop x) (unop y) = edist x y := rfl
-
-@[to_additive]
-theorem edist_op (x y : α) : edist (op x) (op y) = edist x y := rfl
+end
 
-end MulOpposite
+variable {α β : Type*} [PseudoEMetricSpace α]
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/Defs.lean]: I feel like some of the setup with variables here is not very clean because they are not cleanly limited to sections. Since you're overwriting `α` on line 532 anyways you might as well have an additional section here. Then you can include `[PseudoEMetricSpace β]` here, too.

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 5]
```diff
@@ -383,7 +511,7 @@ end ULift
 /-- The product of two pseudoemetric spaces, with the max distance, is an extended
 pseudometric spaces. We make sure that the uniform structure thus constructed is the one
 corresponding to the product of uniform spaces, to avoid diamond problems. -/
-instance Prod.pseudoEMetricSpaceMax [PseudoEMetricSpace β] :
+instance Prod.pseudoEMetricSpaceMax {α : Type*} [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/Defs.lean]: Is there a reason you add these two variables here instead of using the ones from above?

File: Mathlib/Topology/EMetricSpace/Defs.lean
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/Defs.lean:722]: Couldn't you delete the `x` here and use the `ε` instead of `r`?

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 6]
```diff
@@ -128,12 +133,121 @@ protected theorem PseudoEMetricSpace.ext {α : Type*} {m m' : PseudoEMetricSpace
...
+      _ ≤ edist a y + edist y x := PseudoEMetricSpace.edist_triangle a y x
+      _ = edist a y + edist x y := by nth_rw 1 [edist_comm x y]
+      _ < (r - edist x y) + edist x y := by
+        refine (ENNReal.add_lt_add_iff_right ?_).mpr ha
+        contrapose! hy
+        rw [hy]
+        exact le_top
+      _ = r := tsub_add_cancel_of_le hy.le
+
+export WeakPseudoEMetricSpace (edist_self edist_comm edist_triangle)
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/Defs.lean:226]: Before this was exported to `PseudoEMetricSpace`. I assume this change is fine because if you work with `PseudoEMetricSpace` you are also likely to have `WeakPseudoEMetricSpace` open. Is that correct?

File: Mathlib/Topology/EMetricSpace/MulOpposite.lean [hunk 7]
```diff
@@ -0,0 +1,46 @@
...
+module
+
+public import Mathlib.Topology.Algebra.Constructions
+public import Mathlib.Topology.EMetricSpace.Defs
+
+/-!
+# Extended metric spaces on multiplicative opposites
+
+This file proves that if `α` is some (weak) pseudo extended metric space, so it `αᵐᵒᵖ`.
+We do this in this file instead of Mathlib.Topology.EMetricSpace.MulOpposite to avoid imports.
```
Comment (scholzhannah) [inline Mathlib/Topology/EMetricSpace/MulOpposite.lean]:
```suggestion
We do this in this file instead of `Mathlib/Topology/EMetricSpace/Defs.lean` to avoid imports.
```
I think you need to do this to get clickable links in the docs. At least I have seen it like this in other files. Also I assume you mean the Defs file.

File: Mathlib/Topology/EMetricSpace/MulOpposite.lean
Comment (scholzhannah) [reply Mathlib/Topology/EMetricSpace/MulOpposite.lean:1]: This sounds reasonable.

**Review by scholzhannah — COMMENTED** [review]
Some more comments.

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 6 above)
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Defs.lean:226]: Yes

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 5 above)
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: No. :)

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 4 above)
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: The beta is redundant here, but putting this in a section (i.e. everything before 532) then again breaks later stuff etc. etc.

File: Mathlib/Topology/EMetricSpace/Defs.lean
Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Defs.lean:722]: Yes but that makes the order of the arguments less nice

**Comment by felixpernegger** [comment]
-awating-author

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Topology/EMetricSpace/Defs.lean
Comment (scholzhannah) [reply Mathlib/Topology/EMetricSpace/Defs.lean:722]: Sure, that makes sense then!

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: Okay, I also don't think it is important enough to warrant a lot of extra work.

**Comment by scholzhannah** [comment]
For my own future reference and potentially other reviewers: I used these files to better compare what changed. (Just basic `#check` and `#guard_msgs in` to get an informative diff)
[CheckMoved.txt](https://github.com/user-attachments/files/30127982/CheckMoved.txt)
[CheckOriginal.txt](https://github.com/user-attachments/files/30127983/CheckOriginal.txt)

**Comment by scholzhannah** [comment]
This PR looks good to me now. 

maintainer merge

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 8]
```diff
@@ -750,9 +870,31 @@ protected theorem EMetricSpace.ext
...
+protected theorem WeakEMetricSpace.ext {α : Type*} [TopologicalSpace α] {m m' : WeakEMetricSpace α}
+    (h : m.toEDist = m'.toEDist) : m = m' := by
+  cases m
+  cases m'
+  congr
+  ext1
+  assumption
+
+/--
+Every `EMetricSpace` has a `WeakEMetricSpace` structure by using the topology induced by edist. -/
```
Comment (grunweg) [inline Mathlib/Topology/EMetricSpace/Defs.lean]:
```suggestion
Every `EMetricSpace` has a `WeakEMetricSpace` structure by using the topology induced by its `edist`. -/
```
(plus line wrapping as needed)

File: Mathlib/Topology/EMetricSpace/Defs.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Topology/EMetricSpace/Defs.lean]: You seem to say that all the lemmas used in this proof hold for `WeakPseudoEMetricSpace`s --- correct? Can you generalize these lemmas also, and use this to simplify this proof? These 25 extra lines are not great. (This can be a follow-up PR.)

**Review by grunweg — COMMENTED** [review]
Thanks for doing this, and sorry for the delay.
The comparison @scholzhannah made was very helpful for reviewing, thanks a lot! I have one minor question and one comment.

**Comment by felixpernegger** [comment]
@grunweg Not all lemmas used in the proof can be generalized; especially the first one (that balls are open) fails in the weak case for balls with infinite radius.

However I moved that lemma (`Metric.eball`) now before the `PeudoEMetricSace.toWeakPseudoEMetricSpace` and golfed the proof to only 5 lines now (i.e. only +4 compared to the original), so I think that ought to be alright now (and deserves no more comment in the file)

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 9]
```diff
@@ -128,12 +133,105 @@ protected theorem PseudoEMetricSpace.ext {α : Type*} {m m' : PseudoEMetricSpace
...
+/-- Every `PseudoEMetricSpace` has a `WeakPseudoEMetricSpace` structure by
+using the topology induced by `edist`. -/
+instance PseudoEMetricSpace.toWeakPseudoEMetricSpace (α : Type u) [inst : PseudoEMetricSpace α] :
+    WeakPseudoEMetricSpace α where
+  edist_self := edist_self
+  edist_comm := edist_comm
+  edist_triangle := edist_triangle
+  topology_le := by rw [uniformSpace_edist]
+  topology_eq_on_restrict x r :=
+    Metric.isOpen_eball.preimage_val
```
Comment (grunweg) [inline Mathlib/Topology/EMetricSpace/Defs.lean]:
```suggestion
  topology_eq_on_restrict x r := Metric.isOpen_eball.preimage_val
```

**Comment by ocfnash** [comment]
Thanks, please resolve the merge conflict and then feel free to merge.

bors d+
